US07981896B2
1-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]-1H-indazole.
4-Indazol-1-yl-phenol (0.07 mmol) was dissolved in N,N′dimethylformamide (0.5 mL), and sodium hydride (3 mg, 60% dispersion in mineral oil, 0.085 mmol), 1-(3-chloropropyl)pyrrolidine (10 mg, 0.07 mmol) and a catalytic amount of sodium iodide were added. The reaction was heated at 70° C. for 2.5 hours. Saturated sodium bicarbonate solution was added, and the mixture was extracted with ethyl acetate. The organic extracts were dried over MgSO4, concentrated, and purified by semi-prep LC-MS to give 3.5 mg of the desired product. LC-MS (C20H23N3O calculated 321) m/z 322 (M+H).

reactant | 4-Indazol-1-yl-phenol | 0.07 mmol | N1(N=CC2=CC=CC=C12)C1=CC=C(C=C1)O | C13H10N2O
reactant | sodium hydride | 0.085 mmol, 3 mg | [H-].[Na+]
reactant | 1-(3-chloropropyl)pyrrolidine | 0.07 mmol, 10 mg | ClCCCN1CCCC1 | C7H14ClN
reactant | sodium iodide | [I-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N′dimethylformamide | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-[4-(3-Pyrrolidin-1-ylpropoxy)phenyl]-1H-indazole | 3.5 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)N1N=CC2=CC=CC=C12 | C20H23N3O
